US07838518B2
(B): 4-methoxy-1-naphthyl sulfonyl chloride
To a cooled (0° C.) solution of 1-methoxy naphthalene (5 cm3, 34.5 mmol) in dichloromethane (20 cm3) was added, over a 10 minute period, chlorosulfonic acid (4.6 cm3, 69.0 mmol). Following this addition, phosphorus pentachloride (7.2 g, 34.5 mmol) was added and the reaction was maintained at 0° C. for a further 45 min. The reaction was then quenched by pouring onto ice/water (50 cm3), and allowed to warm to room temperature. Further dichloromethane (40 cm3) was added and the solution was transferred to a separating funnel, where the organic layer was collected and washed with saturated aqueous sodium chloride solution (70 cm3) and dried over sodium sulfate. The solvent was then evaporated under reduced pressure to afford title compound (8.23 g, 32.1 mmol; 93%).

reactant | 1-methoxy naphthalene | 34.5 mmol, 5 cm3 | COC1=CC=CC2=CC=CC=C12 | C11H10O
reactant | chlorosulfonic acid | 69.0 mmol, 4.6 cm3 | ClS(=O)(=O)O | ClHO3S
reactant | phosphorus pentachloride | 34.5 mmol, 7.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | 4-methoxy-1-naphthyl sulfonyl chloride | 32.1 mmol, 8.23 g, 93% | COC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C11H9ClO3S
